US07321040B2
B) 6(4-Fluoro-benzyl)-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine
A mixture of (4-fluoro-phenyl)-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-methanol (591.3 mg, 2.07 mmol), Zn (1 g), and formic acid (3 mL) was heated at 105° C. for 4 days. The reaction was cooled, concentrated in vacuo, and quenched with saturated Na2CO3. The reaction mixture was extracted with ethyl acetate, the extracts dried over sodium sulfate and concentrated in vacuo. The residue was purified by flash chromatography (eluting with 10% methanol/ethyl acetate), followed by ethyl acetate precipitation (following addition of HCl in dioxane). The crude precipitate was recrystallized from MeOH/EtOAc to give the title compound (175.6 mg, 21%).

reactant | (4-fluoro-phenyl)-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-yl)-methanol | 2.07 mmol, 591.3 mg | FC1=CC=C(C=C1)C(O)C=1C=CC=2N(C1)C(=NN2)C(C)C | C16H16FN3O
catalyst | Zn | 1 g | [Zn] | Zn
solvent | formic acid | 3 mL | C(=O)O | CH2O2
product | 6(4-Fluoro-benzyl)-3-isopropyl-[1,2,4]triazolo[4,3-a]pyridine | 175.6 mg, 21% | FC1=CC=C(CC=2C=CC=3N(C2)C(=NN3)C(C)C)C=C1 | C16H16FN3
